US03995042
To a solution of 5.4 g of sodium methoxide in 400 ml of methanol is added 33.2 g of 2-amino-1-[[(o-bromophenyl)thio]methyl]pyridinium chloride, and the mixture is stirred and heated under reflux for about 5 hours, and filtered while hot. The filtrate is concentrated in vacuo to dryness to give 1-[(o-bromophenylthio)methyl]-2-iminopyridine as a pale yellow crystalline solid after recrystallization from cyclohexane.

reactant | sodium methoxide | 5.4 g | C[O-].[Na+]
reactant | 2-amino-1-[[(o-bromophenyl)thio]methyl]pyridinium chloride | 33.2 g | [Cl-].NC1=[N+](C=CC=C1)CSC1=C(C=CC=C1)Br
solvent | methanol | 400 ml | CO | CH4O
product | 1-[(o-bromophenylthio)methyl]-2-iminopyridine | BrC1=C(C=CC=C1)SCN1C(C=CC=C1)=N | C12H11BrN2S
